US04496558
A mixture of 0.52 g. of 6-chloro-2,3,4,5-tetrahydro-1H-3-benzazepine, 0.34 g. of allyl bromide, 0.6 g. of potassium carbonate and 20 ml. of 90% ethanol was stirred at room temperature for 17 hours. The mixture was filtered and the filtrate concentrated in vacuo. The residue was extracted with 35 ml. of ether and the ethereal extract treated with isopropanolic hydrogen chloride to precipitate 3-allyl-6-chloro-2,3,4,5-tetra-hydro-1H-3-benzazepine hydrochloride. Recrystallization of this salt from absolute ethanol gave 3-allyl-6-chloro-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride having a melting point of 248°-249°.

reactant | 6-chloro-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC1=CC=CC=2CCNCCC21 | C10H12ClN
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 3-allyl-6-chloro-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.C(C=C)N1CCC2=C(CC1)C=CC=C2Cl | InChI=1S/C13H16ClN.ClH/c1-2-8-15-9-6-11-4-3-5-13(14)12(11)7-10-15;/h2-5H,1,6-10H2;1H
